US04610991
3-(4-Pyridinylamino)benzamide was prepared from 3-(4-pyridinylamino)benzoic acid and ammonia according to the procedure of Example 48, part (b), and was obtained in 50% yield as a colorless powder, m.p. 201°-203° C. when recrystallized from methanol.

reactant | 3-(4-pyridinylamino)benzoic acid | N1=CC=C(C=C1)NC=1C=C(C(=O)O)C=CC1 | C12H10N2O2
reactant | ammonia | N | H3N
product | 3-(4-Pyridinylamino)benzamide | 50% yield | N1=CC=C(C=C1)NC=1C=C(C(=O)N)C=CC1 | C12H11N3O
